US07115611B2
H] [2-(3-Methoxy-propyl)-4-methylamino-phenoxy -acetic acid ethyl ester
1.55 g (4.06 mmol) of the above prepared [4-(tert-butoxycarbonyl-methyl-amino)-2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester was dissolved in 41 ml of CH2Cl2 and treated dropwise with 10 ml of TFA. After additional 30 Min. at RT, the bulk of the solvents was removed i. V. and the residue distributed between cold NaHCO3-solution and AcOEt. Washing with cold water and brine, drying over magnesium sulfate, and evaporation of the solvents left 1.15 g of the title compound as brownish oil which was used as such for the next step.

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)CCCOC)=O | C20H31NO6
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 41 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Methoxy-propyl)-4-methylamino-phenoxy -acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC)CCCOC)=O | C15H23NO4
